* source CA1-Q1
X_H2    I N03223 N03200 0 SCHEMATIC1_H2 
R_R8         I N03306  1  
R_R9         N03249 0  1  
R_R10         N03306 N03249  1  
E_E2         N03306 0 N03200 N03223 2
R_R11         N03249 N03200  1  
R_R12         N03223 N03200  1  
V_V2         N03249 N03223 9Vdc

.subckt SCHEMATIC1_H2 1 2 3 4  
H_H2         3 4 VH_H2 2
VH_H2         1 2 0V
.ends SCHEMATIC1_H2
