* source CA1-Q3-B
R_R1         N00113 N00143  2  
R_R5         N01285 A  6  
V_V1         N01285 0 20Vdc
R_R3         0 N00143  6  
E_E1         N00143 N00113 N00113 0 2
R_R4         N00113 0  4  
I_I1         0 N00113 DC 5Adc  
R_R2         N00143 A  2  
R_R6         0 A  10  
R_R7         0 A  10  
