* source CA1-Q2-D-VOLTAGE_SOURCE
R_R1         N00479 N00597  4  
R_R2         N00421 N00597  1  
I_I2         N00421 N00479 DC 3Adc  
R_R3         0 N00421  2  
X_H1    N00700 N00597 N00479 0 SCHEMATIC1_H1 
V_V1         N00700 0 8Vdc

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
